US03937838
g. 3,5-Dibenzyloxyacetophenone
70 g of 3,5-dibenzyloxy-benzoyl-chloride in dry benzene were slowly added to a solution of diethyl ethoxy-magnesium-malonate prepared in known manner. The reaction mixture was refluxed overnight, and after cooling 300 ml of benzene and 200 ml of 5-N sulphuric acid were added to hydrolyze the mixture. The benzene phase was washed 3 times with water and dried with magnesium sulphate. The benzene was evaporated and the excess of diethyl malonate distilled off under reduced pressure. To the residue 400 ml of dioxane, 80 ml of water and 40 ml of conc. hydrochloric acid were added. The reaction mixture was heated for 24 hours on an oil bath at 130°C. After evaporation a brown oil remained, which crystallized on standing. Recrystallized from ethanol: M.p. 60°-61°C.

reactant | 3,5-dibenzyloxy-benzoyl-chloride | 70 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)Cl)C=C(C1)OCC1=CC=CC=C1 | C21H17ClO3
reactant | diethyl ethoxy-magnesium-malonate | C(CC(=O)[O-])(=O)[O-].C(C)C(C)(O[Mg+2])CC
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 3,5-Dibenzyloxyacetophenone | CC(=O)C1=CC(=CC(=C1)OCC2=CC=CC=C2)OCC3=CC=CC=C3 | C22H20O3
